US06255276B1
60 g (0.13 mol) of (5-carboxypentyl)triphenylphosphonium bromide were suspended in 250 ml of tetrahydrofuran. 30 g (0.26 mol) of potassium t-butylate in 20 ml of tetrahydrofuran were then added. Subsequently, 26 g (0/11 mol) of 10-bromodecanal were added. After usual work up 28 g (65%) of crude 6Z-16-bromohexadec-6-enoic acid were obtained having the following characteristics: Z/E=93/7;

reactant | (5-carboxypentyl)triphenylphosphonium bromide | 0.13 mol, 60 g | [Br-].C(=O)(O)CCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 10-bromodecanal | 11 mol, 26 g | BrCCCCCCCCCC=O | C10H19BrO
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6Z-16-bromohexadec-6-enoic acid | 28 g, 65% | BrCCCCCCCCC\C=C/CCCCC(=O)O | C16H29BrO2
